US08053435B2
(2-viii-1) 1-Isopropylpyrrolidin-3-ylamine (20a)
t-Butyl-1-isopropylpyrrolidin-3-ylcarbamate (0.90 g, 3.9 mmol) obtained in Preparation Example (2-vii-1) was dissolved in dichloromethane (10 ml) in a 50 ml vessel, and trifluoroacetic acid (1.45 ml, 1.95 mmol, 5 eq.) was slowly added dropwise thereto while stirring. The resulting mixture was reacted for 18 hrs. After the completion of reaction, the reaction mixture was distilled and concentrated under reduced pressure, and then subjected to azeotropic distillation with CHCl3 3 times. The resultant was basified with aqueous 2N potassium hydroxide solution (20 ml) and extracted with CHCl3 3 times. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate, filtered and distilled under reduced pressure to obtain 433 mg of the title compound as yellow oil (yield 86%).

reactant | t-Butyl-1-isopropylpyrrolidin-3-ylcarbamate | 3.9 mmol, 0.90 g | C(C)(C)(C)OC(NC1CN(CC1)C(C)C)=O | C12H24N2O2
reactant | trifluoroacetic acid | 1.95 mmol, 1.45 ml, 5 eq. | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-Isopropylpyrrolidin-3-ylamine | 433 mg, yield 86% | C(C)(C)N1CC(CC1)N | C7H16N2
